US06340678B1
To a solution of 500 mg of (Z)-N-(1-benzyl-4-piperidyl)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-acetamide in 15 ml of dichloromethane was added 88 μl of 1-chloroethyl chloroformate, and the mixture was stirred for 3.5 hours with heating under refluxing. The solvent was evaporated, and 20 ml of methanol was added to the residue, followed by stirring at 50° C. for two hours. After this was cooled down to room temperature, a saturated aqueous solution of sodium bicarbonate was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (eluting with methanol-aqueous ammonia). After making into a hydrochloride using a 4N HCl/ethyl acetate solution, the salt was collected by filtration and washed with ethyl acetate to give 273 mg of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-(4-piperidyl)acetamide monohydrochloride as a colorless powder.

reactant | (Z)-N-(1-benzyl-4-piperidyl)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-acetamide | 500 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC(\C=C\1/C(CCN(C2=C1C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)(F)F)=O | C35H34F2N4O2S
reactant | 1-chloroethyl chloroformate | 88 μl | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-(4-piperidyl)acetamide monohydrochloride | 273 mg | Cl.FC\1(CCN(C2=C(/C1=C/C(=O)NC1CCNCC1)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | InChI=1S/C28H28F2N4O2S.ClH/c1-18-25(37-26(32-18)19-7-3-2-4-8-19)27(36)34-16-13-28(29,30)22(21-9-5-6-10-23(21)34)17-24(35)33-20-11-14-31-15-12-20;/h2-10,17,20,31H,11-16H2,1H3,(H,33,35);1H/b22-17-;
